US04382939
8-Ethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 3-ethylphenol (12.2 g, 0.1 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (19.3 g, 0.1 moles). The crude material is washed with water and dried to give the product (6.6 g), mp 80°-85° C.

reactant | 3-ethylphenol | 0.1 moles, 12.2 g | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.1 moles, 19.3 g | Cl.O=C1C(CNCC1)C(=O)OC
product | 8-Ethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 6.6 g | C(C)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C14H15NO2
